US04305945
2-Methylthio-5-(3-pyridylmethyl)-4-pyrimidone (23.3 g) and 5-aminopentanol (24.5 g) were fused together at 170°-180° for 2 hours. Water was added to the cooled residue and the mixture was adjusted to pH7 with dilute hydrochloric acid. The solid (23.8 g) which crystallised out was recrystallised from 2-propanol containing hydrogen chloride to give 2-(5-hydroxypentylamino)-5-(3-pyridylmethyl)-4-pyrimidone dihydrochloride, m.p. 203°-205°.

reactant | 2-Methylthio-5-(3-pyridylmethyl)-4-pyrimidone | 23.3 g | CSC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C11H11N3OS
reactant | 5-aminopentanol | 24.5 g | NCCCCCO | C5H13NO
reactant | hydrochloric acid | Cl | ClH
solvent | Water | O | H2O
product | 2-(5-hydroxypentylamino)-5-(3-pyridylmethyl)-4-pyrimidone dihydrochloride | Cl.Cl.OCCCCCNC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | InChI=1S/C15H20N4O2.2ClH/c20-8-3-1-2-7-17-15-18-11-13(14(21)19-15)9-12-5-4-6-16-10-12;;/h4-6,10-11,20H,1-3,7-9H2,(H2,17,18,19,21);2*1H
